US05008243
Effect of the glycoprotein on the metabolism of arachidonic acid (which has been taken into lymphocytes) into PGs in the lymphocyte
The thus obtained acidic liquid was extracted 3 times with each 5 ml of ether, and after evaporating ether off from the ether extract, the dried solid was subjected to esterification by a diazomethane solution. The product of esterification was fractioned by thin layer chromatography while developing with a 90:50:20:100 by volume mixture of ethyl acetate, isooctane, acetic acid and water to obtained fractioned spots which were identified by the authentic specimens of PGD2, PGE2, PGF2α and 6-keto-PGF1α.

reactant | PGD2 | CCCCC[C@@H](/C=C/[C@@H]1[C@H]([C@H](CC1=O)O)C/C=C\CCCC(=O)O)O | C20H32O5
reactant | PGE2 | CCCCC[C@@H](/C=C/[C@H]1[C@@H](CC(=O)[C@@H]1C/C=C\CCCC(=O)O)O)O | C20H32O5
reactant | PGF2α | CCCCC[C@@H](/C=C/[C@H]1[C@@H](C[C@@H]([C@@H]1C/C=C\CCCC(=O)O)O)O)O | C20H34O5
reactant | 6-keto-PGF1α | CCCCC[C@@H](/C=C/[C@H]1[C@@H](C[C@@H]([C@@H]1CC(=O)CCCCC(=O)O)O)O)O | C20H34O6
product | arachidonic acid | C(CCC\C=C/C\C=C/C\C=C/C\C=C/CCCCC)(=O)O | C20H32O2
